US06673786B1
A3. tert-Butyl (5-tert-butoxycarbonylmethyl-2,6-dioxoperhydro-1,5-diazocin-1-yl)acetate
3.3 g of perhydro-1,5-diazocin-2,6-dione are suspended in 30 ml of absolute DMF, and 732 mg of sodium hydride (80%) are then added. The mixture is stirred at RT for 15 min and then cooled to 0° C., and 3.76 ml of tert-butyl bromoacetate are then added. The mixture is stirred at 0° C. for 15 min and at RT for 30 min, and is then once again cooled to 0° C., and another 732 mg of sodium hydride (80%) are added. After 15 min, a further 3.76 ml of tert-butyl bromoacetate are added using a pipette, the ice bath is removed after 15 min and the mixture stirred at RT overnight. The mixture is then diluted with dichloromethane, water is added, and the phases are then separated and the organic phase is washed twice with water. The organic phase is dried over MgSO4 and concentrated, and the residue is dried under high vacuum and recrystallized from n-hexane. This gives 2.5 g of the title compound of m.p. 180° C. The mass spectrum shows the molecular peaks MH+ and MNH4+ at 371 and 388 Da.

reactant | perhydro-1,5-diazocin-2,6-dione | 3.3 g | N1C(CCNC(CC1)=O)=O | C6H10N2O2
reactant | sodium hydride | 732 mg | [H-].[Na+]
reactant | tert-butyl bromoacetate | 3.76 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium hydride | 732 mg | [H-].[Na+]
reactant | tert-butyl bromoacetate | 3.76 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | tert-Butyl (5-tert-butoxycarbonylmethyl-2,6-dioxoperhydro-1,5-diazocin-1-yl)acetate | C(C)(C)(C)OC(=O)CN1CCC(N(CCC1=O)CC(=O)OC(C)(C)C)=O | C18H30N2O6
